US04061761
3-n-Butyl-2-n-butylimino-4-(4-chloro-3-sulfamoylphenyl)-1,3-thiazolidine-4-ol-hydrobromide
6.2 g of 2 bromo-4'-chloro-3'-sulfamoylacetophenone were reacted with 3.8 g of 1,3-di-n-butylthiourea according to the prescription given in Example 12 and the end product was precipitated with diisopropyl ether.

reactant | bromo-4'-chloro-3'-sulfamoylacetophenone | BrCC(=O)C1=CC(=C(C=C1)Cl)S(N)(=O)=O | C8H7BrClNO3S
reactant | 1,3-di-n-butylthiourea | 3.8 g | C(CCC)NC(=S)NCCCC | C9H20N2S
product | 3-n-Butyl-2-n-butylimino-4-(4-chloro-3-sulfamoylphenyl)-1,3-thiazolidine-4-ol-hydrobromide | Br.C(CCC)N1C(SCC1(O)C1=CC(=C(C=C1)Cl)S(N)(=O)=O)=NCCCC | InChI=1S/C17H26ClN3O3S2.BrH/c1-3-5-9-20-16-21(10-6-4-2)17(22,12-25-16)13-7-8-14(18)15(11-13)26(19,23)24;/h7-8,11,22H,3-6,9-10,12H2,1-2H3,(H2,19,23,24);1H
